US08633315B2
Step 2: Lithium 2-methoxybutanoate
In a 15-mL RBF was dissolved methyl 2-methoxybutanoate (0.027 g, 0.20 mmol) in methanol (0.75 mL). A solution of lithium hydroxide monohydrate (0.0086 g, 0.20 mmol) in water (0.75 mL) was added, and the mixture was stirred overnight. The mixture was concentrated to afford the title compound.

reactant | methyl 2-methoxybutanoate | 0.20 mmol, 0.027 g | COC(C(=O)OC)CC | C6H12O3
reactant | lithium hydroxide monohydrate | 0.20 mmol, 0.0086 g | O.[OH-].[Li+]
solvent | methanol | 0.75 mL | CO | CH4O
solvent | water | 0.75 mL | O | H2O
product | Lithium 2-methoxybutanoate | COC(C(=O)[O-])CC.[Li+] | InChI=1S/C5H10O3.Li/c1-3-4(8-2)5(6)7;/h4H,3H2,1-2H3,(H,6,7);/q;+1/p-1
